US06479531B1
5-{[5-(2-Adamantan-1-yl-ethyl)-2-tert-butyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid
The title compound was prepared according to the procedure of Example 70, with the modification that trimethylacetaldehyde was used in step a instead of 2-dimethylamino-benzaldehyde and 5-amino-2-methyl-benzoic acid benzyl ester replaced 3-amino-benzoic acid benzyl ester in step c. 1H NMR (300 MHz, d6-DMSO) 12.75 (1H, br s), 11.85 (1H, br s), 9.38 (1H, s), 8.25 (1H, s), 7.76 (1H, d), 7.21 (1H, d), 2.88 (2H, m), 2.45 (3H, s), 1.94 (3H, br s), 1.70-1.59 (6H, m), 1.510 (6H, br s), 1.34 (11H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 61.52; H, 8.39; N, 7.91%. C35H54N4O8.1.5 H2O requires: C, 61.29; H, 8.38; N, 8.17%.

reactant | trimethylacetaldehyde | CC(C=O)(C)C | C5H10O
reactant | 2-dimethylamino-benzaldehyde | CN(C1=C(C=O)C=CC=C1)C | C9H11NO
reactant | 5-amino-2-methyl-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)N)C)=O | C15H15NO2
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | water dioxan | O.O1CCOCC1
solvent | H2O | O | H2O
product | 5-{[5-(2-Adamantan-1-yl-ethyl)-2-tert-butyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)CCC2=C(N=C(N2)C(C)(C)C)C(=O)NC=2C=CC(=C(C(=O)O)C2)C | C28H37N3O3
